*******************************************************************************
*****************************************************************
* NXP BUK9Y19_75B
*
* Polarity N-Channel
* Ratings 100V/1.90E-02OHMS/20A
*
* Date Created Tue Jun 16 04:25:06 2009
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK9Y19_75B DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.01256636
RLD1 5 4 1e-06
LG GATE 1 5.43147180559945e-10
RLG GATE 1 1.36507660078025
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.2619448
RLS1 8 7 0.00035

RDS 7 4 66666666.6666667 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.0125395043689691 TC=0.00819922594949981,-1.38750797942607e-05
RBD 9 4 0.0011556642688511 TC=0.00819922594949981,-1.38750797942607e-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 200000000
CGS 2 6 2.216e-09
RG 1 2 1.19820727872101

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -25	2360
+ -10	2360
+ -5	2350
+ -4	2350
+ -3	2340
+ -2	2500
+ -1	2395
+ -0.5	1864
+ -0.2	1530
+ -0.1	1410
+ 0	642.5
+ 0.1	1056.9
+ 0.2	959.1
+ 0.5	596.3
+ 1	389
+ 2	281.3
+ 5	197.7
+ 10	152.41
+ 20	117.25
+ 25	107.49



.MODEL MINT NMOS(Vto=1.69525218448455 Kp=1.1596e+02 Nfs=330000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=112.00 Ibv=2.50E-04 Rs=1E-6 Is=1.06062603609664e-12
+ N=1 M=0.1 VJ=0.5 Fc=0.5 Cjo=0 Tt=2.7e-08)

.ENDS

*******************************************************************************
